US09126972B2
8.2: 2-Amino-7-(3-chloro-4-hydroxy-phenyl)-1-ethyl-3-(1H-imidazol-2-yl)-1H-[1,8]naphthyridin-4-one
400 mg (0.59 mmol) of impure 2-amino-7-(3-chloro-4-hydroxy-phenyl)-1-ethyl-3-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-1H-[1,8]naphthyridin-4-one was dissolved in 20 ml DCM. At 0° C., 3.39 g of TFA were added and the mixture was stirred at room temperature for 24 hours. The solution is neutralized by adding an excess of aqueous NaHCO3 solution. The mixture was then extracted three times with DCM. The combined organic phases were dried over MgSO4 and the solvents were evaporated off under reduced pressure. The so-gained raw material was purified on silica gel (DCM:MeOH:NH4OH=4:10.1) yielding 0.035 g of the unprotected title compound.

reactant | 2-amino-7-(3-chloro-4-hydroxy-phenyl)-1-ethyl-3-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-1H-[1,8]naphthyridin-4-one | 0.59 mmol, 400 mg | NC=1N(C2=NC(=CC=C2C(C1C=1N(C=CN1)COCC[Si](C)(C)C)=O)C1=CC(=C(C=C1)O)Cl)CC | C25H30ClN5O3Si
reactant | TFA | 3.39 g | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | 2-Amino-7-(3-chloro-4-hydroxy-phenyl)-1-ethyl-3-(1H-imidazol-2-yl)-1H-[1,8]naphthyridin-4-one | 0.035 g | NC=1N(C2=NC(=CC=C2C(C1C=1NC=CN1)=O)C1=CC(=C(C=C1)O)Cl)CC | C19H16ClN5O2
